US04806558
4-[(2,3-Dihydro-1,1,2,3,3-pentamethyl-5(1H)-indenyl)-ethynyl]-benzaldehyde
Using a procedure similar to that described in Example 1c, 8 g (40 millimoles) of (2,3-dihydro-1,1,2,3,3-pentamethyl-5(1H)-indenyl)-ethyne and 4.6 g (25 millimoles) of 4-bromobenzaldehyde were reacted, the solution was filtered and the filtrate was evaporated down to give a residue, which was extracted with sodium bicarbonate solution/methylene chloride. Stirring the residue with methylene chloride and a little cyclohexane gave 2.3 g (29%) of the title compound of melting point 106°-107° C.

reactant | (2,3-dihydro-1,1,2,3,3-pentamethyl-5(1H)-indenyl)-ethyne | 40 millimoles, 8 g | CC1(C(C(C2=CC(=CC=C12)C#C)(C)C)C)C | C16H20
reactant | 4-bromobenzaldehyde | 25 millimoles, 4.6 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | 4-[(2,3-Dihydro-1,1,2,3,3-pentamethyl-5(1H)-indenyl)-ethynyl]-benzaldehyde | 2.3 g, 29% | CC1(C(C(C2=CC(=CC=C12)C#CC1=CC=C(C=O)C=C1)(C)C)C)C | C23H24O
